US04487945
(±)-4-Methyl-(1-(1-chloro-1-methylethyl))-3-cyclohexen-1-ol
To a stirred solution of 15.2 g of 2,2,6-trimethyl-1-oxaspiro(2.5)oct-5-ene in 200 ml of diethyl ether held at -10° C. was added dropwise 32 ml of 3.8N ethereal hydrochloric acid. After one hour at 0°-5° C., the mixture was washed with three 50 ml portions of water, dried and distilled to give 14.5 g of the desired product, b.p. 70°-75° C. (0.4 mm).

reactant | 2,2,6-trimethyl-1-oxaspiro(2.5)oct-5-ene | 15.2 g | CC1(OC12CC=C(CC2)C)C | C10H16O
reactant | hydrochloric acid | 3.8N, 32 ml | Cl | ClH
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | (±)-4-Methyl-(1-(1-chloro-1-methylethyl))-3-cyclohexen-1-ol | 14.5 g | CC1=CCC(CC1)(O)C(C)(C)Cl | C10H17ClO
